US05140011
0.100 g (0.145 mmol) of t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-6-amino-1-(cyclohexylmethyl)-2-hydroxy-4-isopropylhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate hydrochloride in 1 ml of ethanol is treated with 0.05 ml (0.25 mmol) of Hunig base, cooled to 0° and treated with 0.018 ml (0.16 mmol) of butyl isocyanate in 1 ml of ethanol. Then, the reaction mixture is stirred at room temperature for 2 hours and subsequently evaporated under reduced pressure. Chromatography of the residue on 5 g of silica gel with a mixture of methylene chloride and isopropanol as the eluting agent yields 0.063 g of t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-6-(3-butylureido)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropylhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate as an amorphous solid, MS: 754 (M+H)+.

reactant | t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-6-amino-1-(cyclohexylmethyl)-2-hydroxy-4-isopropylhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate hydrochloride | 0.145 mmol, 0.100 g | Cl.NCC[C@@H](C[C@@H]([C@H](CC1CCCCC1)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)O)C(C)C
reactant | Hunig base | 0.25 mmol, 0.05 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | butyl isocyanate | 0.16 mmol, 0.018 ml | C(CCC)N=C=O | C5H9NO
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-6-(3-butylureido)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropylhexyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate | 0.063 g | C(CCC)NC(NCC[C@@H](C[C@@H]([C@H](CC1CCCCC1)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)O)C(C)C)=O | C41H67N7O6
